US07402684B2
4-p-Tolyloxy-phenol:
1-methoxy-4-(4-methylphenoxy)benzene (23.50 g, 0.110 mol) was taken into anhydrous dichloromethane (100 mL). The mixture was cooled to −78° C. Boron tribromide (82.43 g, 0.329 mol) in anhydrous dichloromethane (100 mL) was added to the reaction dropwise over 10 min. The reaction was kept at −78° C. for 2 h. and was then allowed to warm to room temperature overnight. The reaction was then cooled to 0° C. and quenched with methanol. The mixture was concentrated to dryness and the residue taken into dichloromethane. The pH was adjusted to ˜8 with sodium bicarbonate (aq). The mixture was partitioned and the aqueous layer was washed with dicholoromethane (3×). The combined organic layers were washed with water (2×), brine (1×) and concentrated to dryness to obtain the title product (18.29 g, 0.091 mol, 83% yield); LCMS, m/z 200. found 199 (M−H). 1H NMR (400 MHz, DMSO-d6) δ 2.25 (s, 3H), 6.74-6.85 (m, 6H), 7.10-7.13 (m, 2H), 9.28 (s, 1H).

reactant | 1-methoxy-4-(4-methylphenoxy)benzene | 0.110 mol, 23.50 g | COC1=CC=C(C=C1)OC1=CC=C(C=C1)C | C14H14O2
reactant | Boron tribromide | 0.329 mol, 82.43 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-p-Tolyloxy-phenol | 0.091 mol, 18.29 g, 83% yield | C1(=CC=C(C=C1)OC1=CC=C(C=C1)O)C | C13H12O2
